US06162819
1-((5-Chloro-2-thienyl)methyl)-3-(5-ethoxycarbonyl-2-furyl)indazole:
600 mg (2.3 mmol) of 3-(5-ethoxycarbonyl-2-furyl)indazole together with 265 mg (2.4 mmol) of potassium tert-butoxide were initially charged in 10 ml of DMF, 430 mg (2.6 mmol) of 2-chloro-5-(chloromethyl)thiophene in 1 ml of DMF were added dropwise and the mixture was stirred at RT for 2 h. Customary work-up gave 350 mg (41%) of the title compound. m.p.: 124-126° C.

reactant | 3-(5-ethoxycarbonyl-2-furyl)indazole | 2.3 mmol, 600 mg | C(C)OC(=O)C1=CC=C(O1)C1=NNC2=CC=CC=C12 | C14H12N2O3
reactant | potassium tert-butoxide | 2.4 mmol, 265 mg | CC(C)([O-])C.[K+]
reactant | 2-chloro-5-(chloromethyl)thiophene | 2.6 mmol, 430 mg | ClC=1SC(=CC1)CCl | C5H4Cl2S
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
product | 1-((5-Chloro-2-thienyl)methyl)-3-(5-ethoxycarbonyl-2-furyl)indazole | 350 mg, 41% | ClC1=CC=C(S1)CN1N=C(C2=CC=CC=C12)C=1OC(=CC1)C(=O)OCC | C19H15ClN2O3S
